US08030311B2
Step 45.3: 5-tert-Butyl-2-(4-morpholin-4-ylmethyl-phenyl)-2H-pyrazol-3-ylamine
To a solution of 490 mg 5-[4-(5-amino-3-tert-butyl-pyrazol-1-yl)-phenyl]-morpholin-4-yl-methanone (1.49 mmol) in 13 mL THF, 3 mL (2.98 mmol) of borane (1M solution in THF) are added at rt. The reaction is stirred at rt for 12 h, concentrated, taken up in MeOH and concentrated again (3×). The residual crude product is purified by flash chromatography (SiO2, CH2Cl2/MeOH, gradient 0-5% MeOH) to give the title compound as a yellow solid. 1H-NMR (CDCl3): 7.50 (d, J=7.2 Hz, 2H), 7.40 (d, J=7.2 Hz, 2H), 5.52 (s, 1H), 3.73-3.70 (m, 5H), 3.51 (s, 2H), 2.47-2.44 (m, 3H), 1.32 (s, 9H).

reactant | 5-[4-(5-amino-3-tert-butyl-pyrazol-1-yl)-phenyl]-morpholin-4-yl-methanone | 1.49 mmol, 490 mg | NC1=CC(=NN1C1=CC=C(C=C1)C1COCCN1C=O)C(C)(C)C | C18H24N4O2
reactant | borane | 2.98 mmol, 1M, 3 mL | B | BH3
reactant | THF | 13 mL | C1CCOC1 | C4H8O
product | 5-tert-Butyl-2-(4-morpholin-4-ylmethyl-phenyl)-2H-pyrazol-3-ylamine | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)CN1CCOCC1)N | C18H26N4O
